US05134111
(a) Synthesis of 6-ethyl-2-methoxy-naphthol
4.4 g of 6-ethyl-3-methoxy-1-naphthalene carbaldehyde and 4.9 g of 80-85% m-chloroperbenzoic acid were dissolved in 40 ml of dichloromethane and then refluxed under heating for 30 min. The solution was cooled to 0° C. and after adding an aqueous saturated solution of sodium thiosulfate and stirring for 20 min, insoluble matters were removed by filtration and then the filtrate was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate.

reactant | 6-ethyl-3-methoxy-1-naphthalene carbaldehyde | 4.4 g | C(C)C=1C=C2C=C(C=C(C2=CC1)C=O)OC | C14H14O2
reactant | m-chloroperbenzoic acid | 4.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 6-ethyl-2-methoxy-naphthol | C(C)C=1C=C2C=CC(=C(C2=CC1)O)OC | C13H14O2
